US07691877B2
4-Amino-1-benzyl-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one
1-Benzyl-4-benzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid (1-hydroxyimino-ethyl)-amide was suspended in toluene and sealed in a microwave vial (Biotage, 0.5-2.0 ml). The vial was sealed and heated under microwave irradiation (Biotage Initiator 8) for 15 minutes at 150° C. Sample heated in microwave for a further 30 minutes at 150° C., and again for a further 30 minutes at 150° C. The mixture was evaporated then partitioned between EtOAc (10 ml) and water (5 ml). The aqueous was extracted twice more with EtOAc (2×10 ml) then the combined organics were dried (MgSO4) and evaporated. The residue was suspended in acetonitrile (2 ml) and this mixture was sealed in a microwave vial then heated under microwave irradiation for 30 minutes at 170° C., then at 190° C. for a further 30 minutes. The reaction mixture was concentrated in vacuo then dissolved in concentrated H2SO4 (2 ml). The solution was left to stir for 30 minutes then poured onto crushed ice. A saturated aqueous K2CO3 solution was added drop-wise until pH was ˜8. The aqueous was decanted from the solid into a separating funnel then extracted with EtOAc (3×15 ml). The combined organics were dried (MgSO4) and evaporated. The mixture of isomers was purified by HPLC on a Luna 10 micron C18(2) column (150×21.2 mmid). Eluted with 0.1% formic acid (aq) and 0.1% formic acid in MeCN at a flow rate of 25 ml/min. The gradient was isocratic at 5% organic for 0.6 minutes, then increased linearly from 5% to 90% organic over 8.50 minutes. The desired fractions were evaporated to give the title compound as a white solid (0.5 mg, 1%). LCMS Rt=2.46 m/z 323 [MH]+

reactant | 1-Benzyl-4-benzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid (1-hydroxyimino-ethyl)-amide | ON=C(C)NC(=O)C1=CC2=C(C(=N1)NCC1=CC=CC=C1)NC(N2CC2=CC=CC=C2)=O | C23H22N6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Amino-1-benzyl-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 0.5 mg, 1% | NC1=NC(=CC2=C1NC(N2CC2=CC=CC=C2)=O)C2=NC(=NO2)C | C16H14N6O2
